Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"I don't want to be here" 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: ___ is a ___ y/o
female with a history of depression who presents to the ___ ED
via ambulance following an intentional overdose on 150 mg
Olanzapine. Psychiatry is consulted for evaluation and 
assistance
with management and disposition.

On arrival to the ED she was somnolent but responsive. Labs
notable for EtOH of 213. Over the next several hours she became
more somnolent, arousing only to very loud voices and painful
stimuli. The patient contributed intermittently to the history
presented here as she was quite somnolent during the interview.

The patient reports that she has "a lot going on," and that 
she's
been feeling "all alone" and suicidal for the last two weeks. 
She
has been unable to talk to anyone about her feelings. She notes
significant stress related to providing foster care for her two
nieces who are teenagers and often give her a tough time. She is
also in the process of looking to move to another apartment 
which
has been stressful.

The patient denies the presence of a suicide note, and is unable
to characterize her thoughts or feelings prior to the ingestion.
She reports feeling "okay" following the ingestion now that she
is still alive. She reports calling her friend to report the
ingestion because she "needed help."

The patients fiancé, ___ (___), provided this
additional history:
   Mr. ___ has been with the patient for the last ___ years.
He reports that her depression over the last two weeks is the
worst that he has seen over the duration of their relationship.
He notes multiple stressors in addition to foster care for her
nieces that could have contributed to today's events. Firstly,
the family is trying to move and is having difficulty finding an
apartment that can hold eight people. He also notes that the
patient has not been expressing her feelings to anyone. He 
denied
ever hearing the patient talk about suicide or not wanting to be
alive, including over the past two weeks. He reports that the
patient was texting with him this morning, talking about how she
was thinking about overdosing on pills, and then disclosed the
overdose to him via text. He subsequently called their daughter,
and asked her to check on the patient. Their daughter and the
patient's cousin then broke down the patients door as it was
locked, and found her on the floor next to the empty bottle of
pills and called ___.

Psych ROS:
- Depressive Symptoms: Reports depressed mood, suicidal ideation
s/p intentional OD today without ongoing active SI, disturbed
sleep including increased sleep latency and poor sleep
maintenance. Denies anhedonia, poor concentration, decreased
interest, guilt, hopelessness, decreased energy, poor appetite,
weight loss. 
- Psychotic Symptoms: Denies auditory and visual hallucinations,
paranoia, ideas of reference, thought blocking, thought
insertion.
- Manic Symptoms: Denies elevated mood, decreased sleep,
decreased need for sleep, increased goal-directed behaviors
(hypersexuality, drug abuse, gambling, spending),
distractibility, increased energy, racing thoughts
- Anxiety: Denies panic attacks, obsessions/compulsions, 
worrying
more than ___ hours/day.
- PTSD: Denies nightmares, flashbacks, avoidance, 
hypervigilance.
- Trauma: Reports history of emotional, physical abuse as a
child.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Diagnoses: depression, anxiety
- Hospitalizations: 1 at age ___ s/p Tylenol OD in ___
- Current treaters and treatment: ___ Counseling
 * Therapist: ___ (___)
 * Psychiatrist: Dr. ___ (___)
- Medication and ECT trials: "many" currently on brintellix,
trazodone, olanzapine
- Self-injury: 1 prior suicide attempt by Tylenol overdose at 
age
___
- Harm to others: denies
- Access to weapons: denies

PAST MEDICAL HISTORY:
PCP: Dr. ___
- ASTHMA
- DEPRESSION
- MIGRAINE HEADACHES
- Denies hx of head injuries or seizure

 
Social History:
SUBSTANCE ABUSE HISTORY:
- EtOH: daily ~2 bottled margaritas
- Tobacco: ___ PPD
- Marijuana: denies
- Opiates, including heroin: denies, denies IVDU
- Benzodiazepines: denies
- Cocaine/Crack: denies
- Amphetamines: denies
- LSD/PCP/Ecstasy/Mushrooms: denies

FORENSIC HISTORY:
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): NA

SOCIAL HISTORY:
- Born/raised, childhood: born in ___, moved to ___ as
a child, returned to ___ in ___ or ___ "rough" childhood; 
2
brothers, 5 sisters
- Education: completed ___ grade
- Employment/Source of income: unemployed; lives off of foster
stipend and niece's ___ check plus fiance's income
- Housing: apartment in ___ with fiance, 4 biological
children, and 2 nieces to whom she is a foster mother
- ___
- Family/Support: fiance
- Relationship Status: engaged
- Children: 4 biological children, and 2 nieces to whom she is a
foster mother (aged ___ and ___)
- Trauma/Abuse: physical and emotional abuse as a child
- Military service: denies
- Access to weapons: denies

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Completed or attempted suicide: denies
- Substance use or dependence: denies
- Mental Illness: son - ADHD

 
Physical ___:
EXAM: 
*VS:  T 98.3, P 74, BP 113/65, RR 12, SpO2 98% (RA), Pain: 0

Neurological:  
 *station and gait: deferred
 *tone and strength: moves all 4 extremities spontaneously and
against gravity
 cranial nerves: II-XII grossly intact

Cognition: 
 Wakefulness/alertness: somnolent, arouses to loud voice
 *Attention (digit span, MOYB): unable to assess due to
somnolence
 *Orientation: unable to assess due to somnolence
 *Memory: unable to assess due to somnolence
 *Fund of knowledge: unable to assess due to somnolence
 *Speech: fluent ___, normal rate, low volume
 *Language: no paraphasic errors, appropriate to conversation

Mental Status:
 *Appearance: thin young AA female with dyed red hair, sleeping
on her side in bed under blankets, in no apparent distress,
appears stated age, unkempt hair, appropriately dressed in
hospital gown
 Behavior: somnolent, no eye contact (keeps eyes closed), 
orients
away from interviewer, no abnormal posturing, no psychomotor
agitation or retardation
 *Mood / Affect: "I feel alone" / flat, minimally reactive
 *Thought process / *associations: difficult to assess given
somnolence and limited speech but appears grossly linear and
coherent
 *Thought Content: +SI with intentional OD today, denies current
active SI, denies HI/AH/VH, no evidence of delusions or 
paranoia,
does not appear to be responding to internal stimuli
 *Judgment: poor
 *Insight: impaired

 
Pertinent Results:
___ 07:05PM URINE  UCG-NEGATIVE
___ 07:05PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:05PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:02PM   GLUCOSE-80 UREA N-4* CREAT-0.5 SODIUM-141 
POTASSIUM-3.4 CHLORIDE-104 TOTAL CO2-24 ANION GAP-16
___ 12:02PM   estGFR-Using this
___ 12:02PM   ALT(SGPT)-17 AST(SGOT)-23 ALK PHOS-51 TOT 
BILI-0.1
___ 12:02PM   LIPASE-16
___ 12:02PM   ALBUMIN-4.5 CALCIUM-9.1 PHOSPHATE-3.0 
MAGNESIUM-1.8
___ 12:02PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:02PM   WBC-8.4 RBC-5.38 HGB-12.3 HCT-34.6* MCV-64* 
MCH-22.9* MCHC-35.7*# RDW-15.6*
___ 12:02PM   NEUTS-36.7* LYMPHS-51.4* MONOS-5.4 EOS-5.5* 
BASOS-0.9
___ 12:02PM   PLT COUNT-278
___ 12:02PM   ___ PTT-27.9 ___
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 

remained here on that level of observation throughout.  He was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
Depression: Patient was placed on ___ for a suicide 
attempt by overdosing on zyprexa  (150mg total) while 
intoxicated. Patient says she had stopped her Brintellix a few 
weeks ago because she didn't think it worked. Patient also has 
been having increased psychosocial stressors which caused her to 
miss her therapy appts. Patient had poor appetite, poor sleep, 
anhedonia with her depression. On unit patient was restarted on 
her Brintellix and also added Duloxetine 30mg Daily. Patient 
responded well to this and was kept on it at discharge. 
Patient's Propanolol was switched to Nadolol 40mg and increased 
to 60mg because of lower incidence of depression on Nadolol. 
Patient stated she is willing to go back to her outpatient 
providers for continued care.  Patient was kept on her original 
dose of zyprexa for agitation and trazadone for sleep. 

Alcohol Use disorder
Patient presente with a BAC of 234. She reports drinking every 
other day and having 2 margaritas and ___ nips at a time. 
Patient was sober for approx ___ years but relapsed after stress 
increased. Patient was started on Naltrexone 50mg QHS initially 
and increased to 100mg QHS and tolerated it well. Patient was 
also interested in returning to ___ meetings as well as an 
addiction group at ___. She has a current sponsor but 
is going to change it for a new one who is more available for 
her. 

GENERAL MEDICAL CONDITIONS:
HTN: Patient came in taking Propanolol and Nifedipine for 
hypertension. Patient's propanlol was switched to Nadolol 
because Nadolol had lower propencity to worsen depression. 
Patient tolerated switch of medications well. 

PSYCHOSOCIAL:
#) GROUPS/MILIEU:
Patient did  attend a few groups during her admission. Patient 
was visible in the milieu but minimally interactive. Patient was 
pleasant and cooperative with staff. 

#) FAMILY INVOLVEMENT:
Patient's fiance: Patient's fiance came in for visit with social 
worker. Patient's fiance is very involved in patient's care and 
is very concerned about her health. The fiance is willing to 
help out more with the children and talked about finding an 
alternative situation for the foster children because of not 
enough room in the house and increased stress. Patient states 
that her cousin will come live with them for a short period to 
help out with the children. 

#) COLLATERAL CONTACTS
- Patients PCP: Dr. ___ was contacted and notified 
that patient was hospitalized
- Patient's Therapist: Mr. ___ was contacted and 
notified that patient was hospitalized
- Patient's Psychiatrist: Dr. ___ was contacted and 
notified that patient was hospitalized. 

INFORMED CONSENT:
The team discussed the indications for, intended benefits of,  
and possible side effects and risks of starting this medication, 
and risks  and benefits of possible alternatives, including not 
taking the medication, with this patient.   We discussed the 
patient's right to decide whether to  take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any  questions about medications 
with the treatment team, and I  answered the patient's 
questions.  The patient appeared able to understand and 
consented to begin the medication.

RISK ASSESSMENT:

#) Chronic/Static Risk Factors:
Age (mid ___)
Prior history of Suicide Attempt
Family history of mental illness

#) Modifiable Risk Factors:
- acute psychosocial stressors
- Acute decompensation in her depression
- Med non compliance
- Relapse of alcohol use

#) Protective Factors:
- Help seeking behavior
- Current, ongoing outpatient psychiatric care
- Strong family support

PROGNOSIS:
Good: Patient has good prognosis if patient is able to remain 
sober from alcohol, attend NA meetings and keep appointments 
with outpatient providers. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Brintellix (vortioxetine) 20 mg oral DAILY 
2. NIFEdipine CR 30 mg PO DAILY 
3. Propranolol LA 80 mg PO DAILY 
4. TraZODone 50 mg PO QHS 
5. OLANZapine 5 mg PO BID:PRN agitation 

 
Discharge Medications:
1. Brintellix (vortioxetine) 20 mg oral DAILY 
RX *vortioxetine [___] 20 mg 1 tablet(s) by mouth Daily 
Disp #*30 Tablet Refills:*0
2. naltrexone 100  oral QHS 
RX *naltrexone 50 mg 2 tablet(s) by mouth At bedtime Disp #*60 
Tablet Refills:*0
3. NIFEdipine CR 30 mg PO DAILY 
4. TraZODone 50 mg PO QHS:PRN insomnia 
5. Duloxetine 30 mg PO DAILY 
Please ask your Doctor about increasing the dose 
RX *duloxetine 30 mg 1 capsule(s) by mouth Daily Disp #*30 
Capsule Refills:*0
6. Nadolol 60 mg PO DAILY 
RX *nadolol 20 mg 3 tablet(s) by mouth Daily Disp #*90 Tablet 
Refills:*0
7. OLANZapine 5 mg PO BID:PRN agitation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for depression and suicide 
attempt.  We adjusted your medications, and you are now ready 
for discharge and continued treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___